US08557922B2
18.80 g (0.027 Mol) of 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-dinitrobenzoate are dissolved in a mixture of 350 ml of N,N-dimethylformamide and 25 ml water. 44.28 g (0.164 Mol) ferric chloride hexahydrate are added. 17.85 g (0.273 Mol) Zinc powder are added portionwise within 40 min. The mixture is allowed to react for 2 hours. The reaction mixture is then partitioned between ethyl acetate and water and filtered. The organic phase is washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 400 g silica gel using toluene:ethyl acetate(2:1) as eluant yielded 15.39 g (91%) of 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-diaminobenzoate as yellowish crystals.

reactant | 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-dinitrobenzoate | 0.027 Mol, 18.80 g | [N+](=O)([O-])C=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)OC(C2=CC=C(C=C2)OCCCC(F)(F)F)=O)=O)C=C(C1)[N+](=O)[O-] | C33H31F3N2O11
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | water | 25 ml | O | H2O
catalyst | Zinc | 0.273 Mol, 17.85 g | [Zn] | Zn
product | 6-{[((2E)-3-{4-[(4-(4,4,4-trifluorobutoxy)benzoyl)oxy]phenyl}prop-2-enoyl)oxy]}hexyl 3,5-diaminobenzoate | 15.39 g, 91% | NC=1C=C(C(=O)OCCCCCCOC(\C=C\C2=CC=C(C=C2)OC(C2=CC=C(C=C2)OCCCC(F)(F)F)=O)=O)C=C(C1)N | C33H35F3N2O7
